US08703805B2
To a suspension of methyl 5-(4-bromophenyl)-1-(2-(trifluoromethyl)phenyl)-1H-pyrazole-3-carboxylate (393 mg, 0.9 mmol) in dry toluene (9 mL) stirred at ambient temperature was added methylmagnesium bromide (1.4 mL of a 3.0M solution in ether, 4.2 mmol) dropwise. After 2¼ hours stirring at ambient temperature the reaction mixture was quenched by the addition of saturated ammonium chloride and EtOAc. The aqueous layer was extracted with EtOAc (3×). The combined organic extract were dried over Na2SO4, filtered and concentrated under reduced pressure to afford 2-(5-(4-bromophenyl)-1-(2-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)propan-2-ol as an orange-yellow oil, which was carried on to the subsequent step. GC/MS (EI, =426 [M+]

reactant | methyl 5-(4-bromophenyl)-1-(2-(trifluoromethyl)phenyl)-1H-pyrazole-3-carboxylate | 0.9 mmol, 393 mg | BrC1=CC=C(C=C1)C1=CC(=NN1C1=C(C=CC=C1)C(F)(F)F)C(=O)OC | C18H12BrF3N2O2
reactant | methylmagnesium bromide | C[Mg]Br
reactant | ether | CCOCC | C4H10O
solvent | toluene | 9 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(5-(4-bromophenyl)-1-(2-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)propan-2-ol | BrC1=CC=C(C=C1)C1=CC(=NN1C1=C(C=CC=C1)C(F)(F)F)C(C)(C)O | C19H16BrF3N2O
